US07026357B2
Preparation A: 3-(4,5-Dihydro-1H-imidazol-2-ylmethyl)aniline
A mixture of 30.7 mmol (5 g) of 3-nitrophenylacetonitrile and 30 mmol (7.2 g) of ethylenediamine para-toluenesulphonate is heated at 100° C. for 1 hour. After cooling to 20° C., the mixture is hydrolysed with 100 ml of a 5M aqueous solution of sodium hydroxide and then extracted with dichloromethane. The organic phases are dried over magnesium sulphate and concentrated. The residue obtained is converted into the hydrochloride by the action of an ethanolic HCl solution to yield the expected product.

reactant | 3-nitrophenylacetonitrile | 30.7 mmol, 5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
reactant | ethylenediamine para-toluenesulphonate | 30 mmol, 7.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
product | 3-(4,5-Dihydro-1H-imidazol-2-ylmethyl)aniline | N1C(=NCC1)CC=1C=C(N)C=CC1 | C10H13N3
